US05786358
To 10 mL of anhydrous methanol was added 0.33 g (14.4 mmol) of sodium metal and a solution of 0.050 g (0.72 mmol) of hydroxylamine hydrochloride in 7 mL of methanol was then added. The resulting reaction mixture was stirred for 15 minutes and 0.23 g (0.5 mmol) of methyl 5-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]thien-2-ylcarboxylate was added under nitrogen. The reaction mixture was stirred for 30 minutes, 0.011 g (0.16 mmol) of hydroxylamine hydrochloride was added, and the reaction was stirred a total of 4.5 hours, and then filtered. The filtrate was then treated with diethyl ether and the solid collected and dried in vacuo to give 0.13 g (71%) of N-{5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]thien-2-ylcarbonyl}hydroxylamine as a tan colored solid. Rf=0.09 (10% CH3OH/CHCl3); 1H NMR (300 MHz, DMSOd6 /TFAd4) δ1.55-1.70 (m, 4H), 1.83; 1.91 (m, 1H), 2.82-2.87 (m, 4H), 3.29-3.33 (m, 1H), 6.82 (d, J=3.6 Hz, 1H), 7.43 (d, J=1.4 Hz, 1H);

reactant | sodium | 14.4 mmol, 0.33 g | [Na] | Na
reactant | hydroxylamine hydrochloride | 0.72 mmol, 0.050 g | Cl.NO
reactant | methyl 5-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]thien-2-ylcarboxylate | 0.5 mmol, 0.23 g | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(S2)C(=O)OC)O | C20H26N4O4S
reactant | hydroxylamine hydrochloride | 0.16 mmol, 0.011 g | Cl.NO
solvent | methanol | 7 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | N-{5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]thien-2-ylcarbonyl}hydroxylamine | 0.13 g, 71% | NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(S2)C(=O)NO)O | C14H17N5O3S
